US09359359B2
To a solution of 7-(4-chlorobenzyl)-8-mercapto-3-methyl-1H-purine-2,6(3H,7H)-dione (400 mg, 1.24 mmol) in concentrated sulfuric acid (5 mL) was added aqueous sodium hypochlorite solution (5 mL, 5% active chlorine) dropwise at 0° C. and the mixture was stirred at room temperature for 15 min. The mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give 7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-sulfonyl chloride (230 mg, 47.6% yield) as brown solid, which was directly used immediately without purification.

reactant | 7-(4-chlorobenzyl)-8-mercapto-3-methyl-1H-purine-2,6(3H,7H)-dione | 1.24 mmol, 400 mg | ClC1=CC=C(CN2C(=NC=3N(C(NC(C23)=O)=O)C)S)C=C1 | C13H11ClN4O2S
reactant | sodium hypochlorite | 5 mL | Cl[O-].[Na+]
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-sulfonyl chloride | 230 mg, 47.6% yield | ClC1=CC=C(CN2C(=NC=3N(C(NC(C23)=O)=O)C)S(=O)(=O)Cl)C=C1 | C13H10Cl2N4O4S
